US07241761B2
(b) 2-Chloro-5-ethanesulfonyl-benzoxazole
8 mmol of 5-Ethanesulfonyl-benzooxazole-2-thiol were dissolved in 10 ml of thionyl chloride. 1 drop of N,N-dimethylformamide is added and the reaction mixture hold at 65° for 45 min. Evaporation of the solvent yields the title compound as brownish solid.

reactant | 5-Ethanesulfonyl-benzooxazole-2-thiol | 8 mmol | C(C)S(=O)(=O)C=1C=CC2=C(N=C(O2)S)C1 | C9H9NO3S2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 2-Chloro-5-ethanesulfonyl-benzoxazole | ClC=1OC2=C(N1)C=C(C=C2)S(=O)(=O)CC | C9H8ClNO3S
